US08803420B2
10 g (49.5 mmol) of 2-bromonitrobenzene, 13 g (163 mmol) of sodium acetate, and 10 g (59 mmol) of 3-bromoaniline were stirred at 180° C. for 8 hours in an argon atmosphere. After cooling the reaction solution to room temperature, the reaction solution was diluted with ethyl acetate, and filtered. After concentrating the filtrate, the residue was washed with methanol to obtain (3-bromophenyl)-(2-nitrophenyl)amine.

reactant | 2-bromonitrobenzene | 49.5 mmol, 10 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | sodium acetate | 163 mmol, 13 g | C(C)(=O)[O-].[Na+]
reactant | 3-bromoaniline | 59 mmol, 10 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-bromophenyl)-(2-nitrophenyl)amine | BrC=1C=C(C=CC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
